US05223518
Step d: 1-Phenyl-3-(thiophen-2-yl)-2-propyne-1-one
Place pyridinium dichromate (0.75 g, 2 mmol) and methylene chloride (15 mL) under argon atmosphere and cool to 0° C. Add α-[(2-thiophenyl)ethynyl]-benzenemethanol (321 mg, 1.5 mmol). Stir overnight while slowly warming to room temperature. Dilute with ethyl ether and filter the chromium salts. Purify by silica gel chromatography to give the title compound.

reactant | pyridinium dichromate | 2 mmol, 0.75 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
reactant | α-[(2-thiophenyl)ethynyl]-benzenemethanol | 1.5 mmol, 321 mg | S1C(=CC=C1)C#CC(O)C1=CC=CC=C1 | C13H10OS
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-Phenyl-3-(thiophen-2-yl)-2-propyne-1-one | C1(=CC=CC=C1)C(C#CC=1SC=CC1)=O | C13H8OS
